** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA.sch
.subckt B04_OTA VDD Vbias0 Vin+ Vin- Vbias3 Vbias1 Vout Vbias2 GND
*.PININFO VDD:B Vbias0:I Vin+:I Vin-:I Vout:O Vbias3:I Vbias2:I GND:B Vbias1:I
M1 net1 Vbias0 VDD VDD pfet_03v3 L=4u W=5u nf=1 m=2
M2 net6 Vin+ net1 VDD pfet_03v3 L=1u W=2u nf=1 m=9
M3 net7 Vin- net1 VDD pfet_03v3 L=1u W=2u nf=1 m=9
M4 net2 Vin+ net1 VDD pfet_03v3 L=1u W=2u nf=1
M5 net3 Vin- net1 VDD pfet_03v3 L=1u W=2u nf=1
M6 net2 Vbias2 net5 GND nfet_03v3 L=1u W=2u nf=1
M7 net3 Vbias2 net4 GND nfet_03v3 L=1u W=2u nf=1
M8 net5 net2 GND GND nfet_03v3 L=4u W=1u nf=1
M9 net6 net3 GND GND nfet_03v3 L=4u W=1u nf=1
M10 net4 net3 GND GND nfet_03v3 L=4u W=1u nf=1
M11 net7 net2 GND GND nfet_03v3 L=4u W=1u nf=1
M12 net9 net10 VDD VDD pfet_03v3 L=4u W=5u nf=1
M13 net8 net10 VDD VDD pfet_03v3 L=4u W=5u nf=1
M14 Vout Vbias3 net9 VDD pfet_03v3 L=4u W=5u nf=1
M15 net10 Vbias3 net8 VDD pfet_03v3 L=4u W=5u nf=1
M16 Vout Vbias2 net7 GND nfet_03v3 L=4u W=1u nf=1
M17 net10 Vbias2 net6 GND nfet_03v3 L=4u W=1u nf=1
M18 net6 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1 m=10
M19 net7 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1 m=10
Mdummy VDD VDD VDD VDD pfet_03v3 L=1u W=2u nf=1
Mdummy1 VDD VDD VDD VDD pfet_03v3 L=1u W=2u nf=1
Mdummy2 VDD VDD VDD VDD pfet_03v3 L=1u W=2u nf=1
Mdummy3 VDD VDD VDD VDD pfet_03v3 L=1u W=2u nf=1
Mdummy4 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy5 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy6 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy7 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy8 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy9 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy10 GND GND GND GND nfet_03v3 L=4u W=1u nf=1
Mdummy11 GND GND GND GND nfet_03v3 L=4u W=1u nf=1
Mdummy12 GND GND GND GND nfet_03v3 L=4u W=1u nf=1
Mdummy13 GND GND GND GND nfet_03v3 L=4u W=1u nf=1
Mdummy14 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy15 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy16 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy17 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy18 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy19 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
.ends
